US08426414B2
Part B. ((1S,2S)-1-{[[(1S,2S)-2-(6-Fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-(4-pent-1-ynyl-phenyl)-amino]-methyl}-2-methyl-butyl)-carbamic acid t-butyl ester
[(1S,2S)-1-({(4-Bromo-phenyl)-[trans-2-(6-fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-amino}-methyl)-2-methyl-butyl]-carbamic acid t-butyl ester (0.068 g, 0.127 mmol), 1-pentyne (0.05 mL, 0.509 mmol), PdCl2(PPh3)2 (0.017 g, 0.025 mmol) and 1N TBAF in THF (0.76 mL, 0.762 mmol) were mixed in THF (1 mL) in sealed microwave flask. The reaction mixture was heated at 90° C. at normal setting for 30 minutes. The reaction mixture was quenched with brine. The aqueous phase was extracted by ethyl acetate (3×7 mL). The combined organic layers were washed brine and dried over MgSO4, filtered and concentrated to give yellow oil. The crude product was purified via column chromatography on silica gel with a gradient of 0%-50% of ethyl acetate in hexanes to afford the title product as yellow oil (0.066 g, 99% yield): 1H NMR (400 MHz, CDCl3) δ ppm 7.32 (m, 4H), 6.86 (m, 3H), 6.42 (m, 1H), 4.76 (d, J=9.1 Hz, 1H), 4.11 (m, 1H), 3.48 (m, 1H), 2.95 (td, J=13.1, 3.8 Hz, 1H), 2.42 (m, 1H), 2.16 (td, J=7.0, 3.4 Hz, 2H), 1.67 (m, 1H), 1.40 (m, 4H), 1.22 (m, 11H), 0.84 (m, 3H), 0.63 (m, 6H); LCMS (ESI) m/e 522.4 [(M+H), calcd for C31H41FN3O3 522.7].

reactant | [(1S,2S)-1-({(4-Bromo-phenyl)-[trans-2-(6-fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-amino}-methyl)-2-methyl-butyl]-carbamic acid t-butyl ester | 0.127 mmol, 0.068 g | C(C)(C)(C)OC(N[C@@H]([C@H](CC)C)CN(C(=O)[C@H]1[C@@H](C1)C1=NC(=CC=C1)F)C1=CC=C(C=C1)Br)=O | C26H33BrFN3O3
reactant | 1-pentyne | 0.509 mmol, 0.05 mL | C#CCCC | C5H8
reactant | TBAF | 1N | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(PPh3)2 | 0.025 mmol, 0.017 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | THF | 0.762 mmol, 0.76 mL | C1CCOC1 | C4H8O
product | ((1S,2S)-1-{[[(1S,2S)-2-(6-Fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-(4-pent-1-ynyl-phenyl)-amino]-methyl}-2-methyl-butyl)-carbamic acid t-butyl ester | 0.066 g, 99% yield | C(C)(C)(C)OC(N[C@@H]([C@H](CC)C)CN(C1=CC=C(C=C1)C#CCCC)C(=O)[C@@H]1[C@H](C1)C1=NC(=CC=C1)F)=O | C31H40FN3O3
